US08957069B2
1-(4-Ethylphenyl)-4-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (400 mg, 1.38 mmol) synthesized in Reference example 96 and 1-bromo-4-ethylbenzene (383 mg, 2.07 mmol), the reaction was carried out in the same manner as Reference example 59 to synthesize the title compound 133 mg (yield 25%). Melting point was 157 to 160° C. (hexane-ethyl acetate).

reactant | 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.38 mmol, 400 mg | COC1=C(C(=C(C=2CC(OC21)(C)C)C)N2CCNCC2)C | C17H26N2O2
reactant | 1-bromo-4-ethylbenzene | 2.07 mmol, 383 mg | BrC1=CC=C(C=C1)CC | C8H9Br
product | 1-(4-Ethylphenyl)-4-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 133 mg, yield 25% | C(C)C1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)OC)C | C25H34N2O2
